US05434151
3,4-(N,N-Dimethylamino-1-(3,4,5-trimethoxyphenyl)-1-propanone (Compound 104, FIG. 1)
3,4,5-Trimethoxyacetophenone (50 g, 237.8 mmol), paraformaldehyde (9.75 g, 304.7 mmol), dimethylamine hydrochloride (26.42 g, 324.0 mmol) and 5 mL conc. HCl were dissolved in 200 mL absolute ethanol and refluxed for 10 hours. Additional dimethylamine hydrochloride (13.21 g, 162.0 mmol) and paraformaldehyde (9.75 g, 304.7 mmol) were added and the solution returned to reflux. After 54 hours (total reaction time), 80 mL of 10% HCl and 500 mL of water were added and the solution was extracted with ethyl ether. The acidic aqueous layer was adjusted to pH 10 with 10% NaOH. The basic solution was extracted with ethyl acetate, dried over MgSO4, filtered and evaporated in vacuo to provide 57.5 g of a yellow oil (92%).

reactant | 3,4,5-Trimethoxyacetophenone | 237.8 mmol, 50 g | CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H14O4
reactant | paraformaldehyde | 304.7 mmol, 9.75 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 324.0 mmol, 26.42 g | Cl.CNC
reactant | HCl | 5 mL | Cl | ClH
reactant | dimethylamine hydrochloride | 162.0 mmol, 13.21 g | Cl.CNC
reactant | paraformaldehyde | 304.7 mmol, 9.75 g | C=O | CH2O
reactant | HCl | 80 mL | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | water | 500 mL | O | H2O
product | N,N-Dimethylamino-1-(3,4,5-trimethoxyphenyl)-1-propanone | 57.5 g, 92% | CN(C)C(C(=O)C1=CC(=C(C(=C1)OC)OC)OC)C | C14H21NO4
